US08314138B2
To a solution of 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide (100 mg, 0.23 mmol, 1.0 equiv) in dimethyl ether (1 mL) was added Na2CO3 (49 mg, 0.46 mmol, 2.0 equiv), trans-2-(4-trifluoromethylphenyl)vinyl boronic acid (123 mg, 0.57 mmol, 2.5 equiv.), PdCl2(dppf) (17 mg, 0.02 mmol, 0.1 equiv) and water (0.1 mL) in a sealed tube. The reaction vessel was immersed in an oil bath preheated to 100° C. After stirring for 2 hr, the reaction mixture was cooled and the solvent was removed in vacuo. The crude product was purified by column chromatography [SiO2, methanol/dichloromethane, 0:100 to 10:90, v/v] and recrystallization (methanol/pentane) to afford 4-methyl-2-{6-[(E)-2-(4-trifluoromethyl-phenyl)-vinyl]-pyrazin-2-yl}-thiazole-5-carboxylic acid benzylamide (77 mg, 70%). 1H NMR (400 MHz, CD2Cl2) δ 9.23 (s, 1H), 8.68 (s, 1H), 7.87 (d, J=16.0 Hz, 1H), 7.75 (d, J=8.0 Hz, 2H), 7.66 (d, J=12.0 Hz, 2H), 7.37 (d, J=4.0 Hz, 4H), 7.28-7.36 (m, 1H), 7.28 (d, J=16.0 Hz, 1H), 6.25 (bs, 1H), 4.62 (d, J=4.0 Hz, 2H), 2.74 (s, 3H); HRMS (M+H)+=481.13.

reactant | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide | 0.23 mmol, 100 mg, 1.0 equiv | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)I)C | C16H13IN4OS
reactant | Na2CO3 | 0.46 mmol, 49 mg, 2.0 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | trans-2-(4-trifluoromethylphenyl)vinyl boronic acid | 0.57 mmol, 123 mg, 2.5 equiv. | FC(C1=CC=C(C=C1)/C=C/B(O)O)(F)F | C9H8BF3O2
reactant | water | 0.1 mL | O | H2O
solvent | dimethyl ether | 1 mL | COC | C2H6O
catalyst | PdCl2(dppf) | 0.02 mmol, 17 mg, 0.1 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-methyl-2-{6-[(E)-2-(4-trifluoromethyl-phenyl)-vinyl]-pyrazin-2-yl}-thiazole-5-carboxylic acid benzylamide | 77 mg, 70% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)\C=C\C1=CC=C(C=C1)C(F)(F)F)C | C25H19F3N4OS
